US07592477B2
Step a) Formation of N-(3-chlorobenzyl)-N-(4-dec-1-ynylbenzyl)amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-dec-1-ynylbenzaldehyde and 3-chlorobenzylamine gave the title compound as a colorless oil (60%). 1H NMR (CDCl3, 300 MHz) δ 7.37-7.19 (m, 8H), 3.75 (s, 2H), 3.74 (s, 2H), 2.37 (t, J=7.2 Hz, 2H), 1.64-1.52 (m, 2H), 1.48-1.37 (m, 2H), 1.36-1.19 (m, 8H), 0.91-0.81 (m, 3H). M+(LC/MS(ESI)): 368.4. HPLC (Condition A), Rt: 4.60 min (HPLC purity: 84.1%).

reactant | 4-dec-1-ynylbenzaldehyde | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | N-(3-chlorobenzyl)-N-(4-dec-1-ynylbenzyl)amine | 60% | ClC=1C=C(CNCC2=CC=C(C=C2)C#CCCCCCCCC)C=CC1 | C24H30ClN
